data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4765,5441,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:23]([CH3:24])=[O:25])[O:15][C:16]1([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22],water,298.15,13.843197583131714,-34.442730863293264
4119,4714,[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[N-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:14]([CH3:15])[CH:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,22.466843402750133,-20.38748884238752
2701,3001,[CH3:19][O:20][C:21](=[O:22])[c-:23]1[nH+:24][c:25](-[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[o:32][c:33]1=[O:34].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]1([c:26]3[cH:27][cH:28][cH:29][cH:30][cH:31]3)[NH:24][C:23]2([C:21]([O:20][CH3:19])=[O:22])[C:33](=[O:34])[O:32]1,water,298.15,25.48073399836997,-4.528681216984559
793,858,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[O:17][CH3:18])=[N+:19]([CH3:20])[CH-:21][C:22]#[N:23].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[CH:21]([C:22]#[N:23])[N:19]([CH3:20])[C:14]3([C:12]([O:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][CH3:18],water,298.15,20.39365127895104,-45.4678594316007
628,688,[CH3:18][C-:19]([C:20]#[N:21])[N+:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[N:23]=[N:22][C:19]2([CH3:18])[C:20]#[N:21],water,298.15,23.78094394443123,-15.49312023822861
3075,3456,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8]([CH3:9])=[O+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:8]([CH3:7])([CH3:9])[O:10][C:11]1([C:12]#[N:13])[C:14]#[N:15],water,298.15,17.034581094145242,-22.93581696324729
1783,1974,[CH3:1][C:2](=[O:3])[C:4](=[C:5]([c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1)[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:24][CH:25]=[NH+:26][C-:27]([CH3:28])[C:29]#[N:30]>>[CH3:1][C:2](=[O:3])[C:4]1([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH:25]([CH3:24])[NH:26][C:27]1([CH3:28])[C:29]#[N:30],water,298.15,21.660618059572744,1.487481144264322
4864,5547,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[C:12][C-:13]([O+:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:13]([C:12]#[N:11])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:14][CH:15]2[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,8.859982317612088,-42.932418928712615
4467,5099,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[C:16]1([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,26.216942452547222,-11.819833765803471
2118,2351,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[O:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20](=[O:21])[O:22][CH3:23])[N:24]([CH3:25])[C:26]2([CH3:27])[C:28](=[O:29])[O:30][CH3:31],water,298.15,38.75632130242206,-8.27233964692417
5119,5812,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,33.49735975508234,6.024823603572727
